2176-03-27 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Transfused 2 u PLT's for PLT
   Allergies:
   Ifosfamide
   Mental status c
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2176-3-24**] 04:28 PM
   Piperacillin/Tazobactam (Zosyn) - [**2176-3-26**] 10:00 AM
   Daptomycin - [**2176-3-26**] 11:17 AM
   Voriconazole - [**2176-3-26**] 08:00 PM
   Levofloxacin - [**2176-3-26**] 08:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-3-26**] 08:00 PM
   Furosemide (Lasix) - [**2176-3-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-3-27**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 80 (69 - 82) bpm
   BP: 118/59(80) {96/53(64) - 119/65(85)} mmHg
   RR: 18 (14 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83 kg (admission): 73.3 kg
   Height: 69 Inch
             Total In:
                                                                  3,427 mL
                                                                    684 mL
   PO:
             TF:
                                                                     44 mL
                                                                     40 mL
   IVF:
                                                                  2,231 mL
                                                                    394 mL
   Blood products:
                                                                    832 mL
   Total out:
                                                                  3,440 mL
                                                                  2,680 mL
   Urine:
                                                                  3,320 mL
                                                                  2,560 mL
   NG:
                                                                    120 mL
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                    -13 mL
                                                                 -1,996 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 578 (427 - 620) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 14 cmH2O
   SpO2: 92%
   ABG: 7.42/41/82.[**Numeric Identifier 143**]/25/1
   Ve: 10.2 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General: Intubated but follows commands.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated
   Lungs: crackles anteriorly  bilaterally without wheezes
   CV: tachycardic, regular, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing. 2+ pitting edema bil
   LEs.
   Labs / Radiology
   37 K/uL
   8.3 g/dL
   122 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.9 mEq/L
   29 mg/dL
   112 mEq/L
   150 mEq/L
   25.2 %
   0.5 K/uL
        [image002.jpg]
                             [**2176-3-25**]  10:47 PM
                             [**2176-3-26**]  03:56 AM
                             [**2176-3-26**]  06:00 AM
                             [**2176-3-26**]  08:32 AM
                             [**2176-3-26**]  08:43 AM
                             [**2176-3-26**]  02:01 PM
                             [**2176-3-26**]  03:31 PM
                             [**2176-3-26**]  09:36 PM
                             [**2176-3-27**]  02:55 AM
                             [**2176-3-27**]  03:17 AM
   WBC
   0.4
   0.4
   0.5
   Hct
   25.9
   26.9
   25.2
   Plt
   11
   78
   38
   52
   37
   Cr
   1.1
   1.3
   1.2
   TCO2
   24
   22
   23
   25
   28
   Glucose
   158
   139
   122
   Other labs: PT / PTT / INR:19.0/36.5/1.7, ALT / AST:25/87, Alk Phos / T
   Bili:575/0.6, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:16.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:3.0 mmol/L, Albumin:2.2 g/dL,
   LDH:446 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR: (my read) interval improvement in RLL and LLL opacities.
   Microbiology: Multiple blood cultures NGTD.
   Sputum 3/22L OP flora.
   BAL: negative x 2.
   Assessment and Plan
   Mr. [**Known lastname **] is a 60 yo male s/p auto BMT [**12-12**] with relapsed DLBCL d+19
   of nitrogen mustard therapy with persistent neutropenic and asplenic
   fevers (s/p splenectomy [**2176-2-20**]) and progressive respiratory failure.
   .
   #. Respiratory failure.  Unclear etiology of rapidly worsening hypoxic
   respiratory failure.  Weaned significantly on vent over psat few days.
   Currently on  PSV 8/9 PEEP/40 FiO2.  CXR this am somewhat improved over
   yesterday, c/w pulmonary edema, and patient is + 8.9 L since admission
   to ICU (day 4). Given neutropenia, infectious cause is of concern.
   Patient on broad spectrum antibiotics currently
   dapto/zosyn/leavquin/vori.  Aspergerllus antigen + at 0.53, but likely
   false positive from concurrent zosyn.  Thoracics declined VATS.
   Lactate trending down.  Will continue treatment with broad antibiotics,
   and diuresed yesterday with IV lasix with good UOP.
   - repeat CXR in AM.
   - continue dapto/zosyn/levaquin/vori
   - continue with lasix diuresis today, goal negative 1L ; [**Hospital1 7**] lytes.
   - wean vent as tolerated
   - empiric steroids; tapered to 60mg solumedrol IV q 12 yesterday.
   - f/u galactomannan, beta glucan.
   .
   #.  Hypotension.  On admission, concern for sepsis.  Now lactate
   trending down, off all pressors since yesterday.
   - follow MAP, fluid bouls prn to keep MAP > 65
   - follow UOP
   .
   # Hypernatremia.  Na of 150 over past few days.  Free water flushes
   increased yesterday but due to high residuals, tube feeds were held so
   IV D5W started.
   - Trend Na on D5W IVF maintenance fluids.
   .
   #Pancytopenia:  Secondary to chemotherapy, improving. Anti-PLT antibody
   negative. Consider also checking HIT-Ab, as PLTs seem to consistently
   be low.
   -Trend [**Hospital1 7**] CBC.
   - Transfuse for HCT>21, PLTs > 30.
   .
   #.  DLBCL s/p nitrogen mustard with neutropenia.  Patient with
   refractory DLBCL.  Now day +20 of nitrogen and counts are slowly
   recovering.  ANC 400.
   - transfuse to Hct of 25, Plts > 30
   - continue neupogen
   - BMT following
   - daily CBC with diff/ anc
   .
   #.  Fevers.  History of ongoing neutropenic and asplenic fevers.  Only
   localizing symptom is respiratory distress.  Additionally, VRE growing
   from JP drain at splenectomy site (though not clear if this is
   colonization of the drain).
   - empiric broad spectrum antibiotics given immunocompromised state,
   consider peeling back once ANC recovers.
   - ID following
   - f/u cultures
   .
   #. Abdominal collections.  Given ongoing fevers and JP drain positive
   for enterococcus, concerning for abscess versus colonization.  Switched
   from vanco to dapto on [**3-23**]. VRE daptomycin sensitive.
   - continue dapto
   - surgery recs
   .
   #. Glycemic control.
   - regular ISS given steroid use
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2176-3-23**] 02:28 PM
   Arterial Line - [**2176-3-23**] 06:24 PM
   20 Gauge - [**2176-3-23**] 08:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Code status: Full code
   Disposition:ICU

2176-03-27 09:19:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with negative fluid balance of 2 liters
   -Wean in PSV to [**5-11**]
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Ifosfamide
   Mental status c
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2176-3-24**] 04:28 PM
   Piperacillin/Tazobactam (Zosyn) - [**2176-3-26**] 10:00 AM
   Daptomycin - [**2176-3-26**] 11:17 AM
   Levofloxacin - [**2176-3-26**] 08:30 PM
   Voriconazole - [**2176-3-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-3-26**] 08:00 PM
   Furosemide (Lasix) - [**2176-3-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-3-27**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 81 (69 - 82) bpm
   BP: 117/58(78) {100/58(64) - 119/65(85)} mmHg
   RR: 19 (14 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.1 kg (admission): 73.3 kg
   Height: 69 Inch
             Total In:
                                                                  3,427 mL
                                                                    908 mL
   PO:
             TF:
                                                                     44 mL
                                                                     40 mL
   IVF:
                                                                  2,231 mL
                                                                    618 mL
   Blood products:
                                                                    832 mL
   Total out:
                                                                  3,440 mL
                                                                  3,160 mL
   Urine:
                                                                  3,320 mL
                                                                  3,040 mL
   NG:
                                                                    120 mL
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                    -13 mL
                                                                 -2,252 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 578 (427 - 620) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 14 cmH2O
   SpO2: 92%
   ABG: 7.42/41/82.[**Numeric Identifier 143**]/25/1
   Ve: 8.2 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   37 K/uL
   122 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.9 mEq/L
   29 mg/dL
   112 mEq/L
   150 mEq/L
   25.2 %
   0.5 K/uL
        [image002.jpg]
                             [**2176-3-25**]  10:47 PM
                             [**2176-3-26**]  03:56 AM
                             [**2176-3-26**]  06:00 AM
                             [**2176-3-26**]  08:32 AM
                             [**2176-3-26**]  08:43 AM
                             [**2176-3-26**]  02:01 PM
                             [**2176-3-26**]  03:31 PM
                             [**2176-3-26**]  09:36 PM
                             [**2176-3-27**]  02:55 AM
                             [**2176-3-27**]  03:17 AM
   WBC
   0.4
   0.4
   0.5
   Hct
   25.9
   26.9
   25.2
   Plt
   11
   78
   38
   52
   37
   Cr
   1.1
   1.3
   1.2
   TCO2
   24
   22
   23
   25
   28
   Glucose
   158
   139
   122
   Other labs: PT / PTT / INR:19.0/36.5/1.7, ALT / AST:25/87, Alk Phos / T
   Bili:575/0.6, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:16.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:3.0 mmol/L, Albumin:2.2 g/dL,
   LDH:446 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR-MIld improvement in basilar opacities
   Microbiology: No new growth
   Assessment and Plan
   60 yo male with recurrent lymphoma and admitted to ICU with hypoxemic
   respiratory failure and diffuse ground glass opacities.  He has had
   continued treatment empirically for pneumonia and worked to maintain
   negative fluid balance with small improvement in CXR but retains
   significant oxygen requirement and Ve is maintained at >10 raising
   concern for possible extubation.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   -Continue with Zosyn/Daptomycin/Levoflox
   -Patient with good cuff leak this morning suggesting upper airway
   patency
   -Patient mental status is favorable
   -Will move to negative fluid balance this morning and move to as
   negative as possible across today
   -Wean of PEEP as tolerated following diuresis and would look to see
   improved oxygenation on current PEEP.
   -With that will move to SBT
 HYPERNATREMIA-
   -Will move to free water replacement today
   -150cc/hr of D5 x 2 liters today
   -Will have to re-evaluate in the setting of ongoing diuresis as
   requirement will be dynamic
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   -Follow HCT and PLT
   -Transfuse per threshold
   ICU Care
   Nutrition: NPO and will attempt to move to po intake when able
   Glycemic Control:
   Lines:
   PICC Line - [**2176-3-23**] 02:28 PM
   Arterial Line - [**2176-3-23**] 06:24 PM
   20 Gauge - [**2176-3-23**] 08:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35

2176-03-28 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Was appearing fatigued on PS 8/5 overnight so increased PS [**8-11**] and
   gave one time dose midazolam to get rest prior to possible extubation
   in am. ABG at 5:30 A (in setting of abd pain): 7.36/ 55 /67 so switched
   back to AC with repeat gas to be done.
   - plan was for SBT this morning, but at 4:30am was diaphoretic,
   breathing at 50, complaining of abdominal pain over incision site from
   recent splenectomy.  +BS, ttp over incision, no r/g; ?hernia (not
   reducible) vs scar per surgery (resident [**Doctor Last Name 5905**] came by to see pt). Got
   KUB to eval preliminarily to rule out free air/obstruction;
   Lactate:3.2. Given Morphine IV and restarted on fentanyl. EKG
   unchanged, cardiac enzymes pending.
   - started on D5W @ 150cc/hr for 2L for hypernatremia of 150 yesterday.
   - BMT thinks marrow slow to recover from infection
   - BMT recs: steroids tapered further to 40 IV BID. PLTs>10k for
   transfusion guidelines.
   - ID recs: can d/c dapto once ANC increases further.
   - started on reglan TID for inc gastric emptying.
   - Given 1 u PLTs AM of [**3-28**] for PLTs of 7.
   Allergies:
   Ifosfamide
   Mental status c
   Last dose of Antibiotics:
   Daptomycin - [**2176-3-27**] 12:30 PM
   Voriconazole - [**2176-3-27**] 07:44 PM
   Levofloxacin - [**2176-3-27**] 07:44 PM
   Piperacillin/Tazobactam (Zosyn) - [**2176-3-28**] 02:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2176-3-27**] 03:50 PM
   Pantoprazole (Protonix) - [**2176-3-27**] 07:45 PM
   Morphine Sulfate - [**2176-3-28**] 05:00 AM
   Fentanyl - [**2176-3-28**] 05:30 AM
   Midazolam (Versed) - [**2176-3-28**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-3-28**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 113 (67 - 113) bpm
   BP: 141/72(97) {105/51(70) - 141/72(97)} mmHg
   RR: 20 (15 - 22) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 80.1 kg (admission): 73.3 kg
   Height: 69 Inch
             Total In:
                                                                  3,549 mL
                                                                    442 mL
   PO:
             TF:
                                                                     95 mL
                                                                     37 mL
   IVF:
                                                                  3,134 mL
                                                                    280 mL
   Blood products:
   Total out:
                                                                  6,763 mL
                                                                    735 mL
   Urine:
                                                                  6,620 mL
                                                                    735 mL
   NG:
                                                                    140 mL
   Stool:
   Drains:
                                                                      3 mL
   Balance:
                                                                 -3,214 mL
                                                                   -293 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   PEEP: 8 cmH2O
   FiO2: 40%
   Vt (Spontaneous): 544 (332 - 544) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   RSBI Deferred: Agitated
   PIP: 28 cmH2O
   SpO2: 99%
   ABG: 7.36/55/67/28/3
   Ve: 11.4 L/min
   PaO2 / FiO2: 112
   Physical Examination
   General: Intubated, diaphoretic, appears uncomfortable, overbreathing
   the vent. Able to answer questions by nodding/shaking his head, follows
   commands.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated
   Lungs: clear to auscultation  bilaterally without wheezes; tachypneic.
   CV: RRR, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, very ttp over midline of abdominal incision, palpable
   firm protrusion ?herniation under incision site that is not reducible,
   non-distended, bowel sounds present, no rebound tenderness , some
   guarding, no organomegaly
   GU: foley in place.
   Ext: warm, well perfused, 2+ pulses, no clubbing. 2+ pitting edema bil
   LEs.
   Labs / Radiology
   7 K/uL
   7.9 g/dL
   180 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.5 mEq/L
   28 mg/dL
   102 mEq/L
   143 mEq/L
   23.9 %
   0.4 K/uL
        [image002.jpg]
                             [**2176-3-27**]  02:55 AM
                             [**2176-3-27**]  03:17 AM
                             [**2176-3-27**]  12:33 PM
                             [**2176-3-27**]  03:13 PM
                             [**2176-3-27**]  03:40 PM
                             [**2176-3-27**]  06:05 PM
                             [**2176-3-27**]  08:50 PM
                             [**2176-3-28**]  03:00 AM
                             [**2176-3-28**]  03:16 AM
                             [**2176-3-28**]  05:13 AM
   WBC
   0.5
   0.5
   0.4
   Hct
   25.2
   25.7
   23.9
   Plt
   37
   21
   7
   Cr
   1.2
   1.2
   1.1
   TCO2
   28
   29
   29
   32
   29
   33
   32
   Glucose
   122
   151
   180
   Other labs: PT / PTT / INR:18.0/35.9/1.6, ALT / AST:25/87, Alk Phos / T
   Bili:575/0.6, Differential-Neuts:52.0 %, Band:0.0 %, Lymph:26.0 %,
   Mono:22.0 %, Eos:0.0 %, Lactic Acid:3.2 mmol/L, Albumin:2.2 g/dL,
   LDH:446 IU/L, Ca++:7.6 mg/dL, Mg++:1.5 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR (my read): interval improvement in LL effusion.
   KUB (my read): no evidence of free or or obstruction.
   Microbiology: Sputum [**3-25**]: commensal respiratory flora.
   Cdiff [**3-26**]: negative.
   Assessment and Plan
   Mr. [**Known lastname **] is a 60 yo male s/p auto BMT [**12-12**] with relapsed DLBCL d+19
   of nitrogen mustard therapy with persistent neutropenic and asplenic
   fevers (s/p splenectomy [**2176-2-20**]) and progressive respiratory failure.
   .
   #. Respiratory failure.  Unclear etiology of rapidly worsening hypoxic
   respiratory failure.  Weaned significantly on vent over psat few days.
   Had been on  PSV 8/8 PEEP/40 FiO2 until this AM then required switch to
   AC in setting of abdominal pain.  CXR this am somewhat improved over
   yesterday, c/w pulmonary edema, and patient is + 7.3 L since admission
   to ICU (day 5). Given neutropenia, infectious cause is of concern.
   Patient on broad spectrum antibiotics currently
   dapto/zosyn/leavquin/vori.  B-glucan from [**3-23**] +112; false positives
   can be seen with amox-clav acid, but given that this was negative
   [**3-16**].  Lactate had been trending down, slightly increased over past day
   from 2.3 -> 4.2, now 3.2 this AM.  Will continue treatment with broad
   antibiotics, and diuresed yesterday with IV lasix with good UOP.
   - repeat CXR in AM.
   - continue dapto/zosyn/levaquin/vori
   - continue with lasix diuresis today, goal negative 1L ; [**Hospital1 7**] lytes.
   - wean vent as tolerated
   - empiric steroids; tapered to 40mg solumedrol IV q 12 yesterday.
   - repeat galactomannan, beta glucan.
   .
   # Abdominal Pain. Acute onset of abdominal pain this morning with
   evidence of possible hernia vs. scar formation under incision site with
   minimal oozing BRB from distal part of incision concerning for
   ?herniation of bowel, esp as lactate increased over past few days.
   Other possibile cause of abdominal pain could be abscess formation.
   KUB without evidence of perforation or obstruction, but pt warrants
   further evaluation with CT abd today given acute change from baseline.
   Surgery saw pt this AM and felt that this was less likely hernia and
   more likely scar formation.
   - f/u surgery recs
   - f/u KUB final read
   - On broad spectrum antibiotics to cover GNs.
   - CT abd/pelvis to rule out abscess, hernia, other acute process.
   .
   #.  Hypotension.  On admission, concern for sepsis.  Lactate was
   trending down, now slowly creeping up, off all pressors for 2 days.
   - follow MAP, fluid bolus prn to keep MAP > 65
   - follow UOP
   .
   # Hypernatremia.  Na of 150 over past few days.  IV D5W x 2L given
   yesterday with resolution and serum Na of 143 this AM.
   - Trend Na and give D5W IVF prn.
   .
   #Pancytopenia:  Secondary to chemotherapy, improving. Anti-PLT antibody
   negative. Consider also checking HIT-Ab, as PLTs seem to consistently
   be low. PLTs 7 this AM, so giving 1u PLTs.
   -Trend [**Hospital1 7**] CBC.
   - Transfuse for HCT>21, PLTs > 10 per BMT recs.
   .
   #.  DLBCL . s/p nitrogen mustard with neutropenia.  Patient with
   refractory DLBCL.  Now day +21 of nitrogen and counts are slowly
   recovering.  ANC 400 yesterday now 208.
   - transfuse to Hct of 25, Plts > 10
   - continue neupogen
   - BMT following
   - daily CBC with diff/ anc
   .
   #.  Fevers.  History of ongoing neutropenic and asplenic fevers.  Now
   only low grade temps of 99F.  VRE growing from JP drain at splenectomy
   site (though not clear if this is colonization of the drain).
   - empiric broad spectrum antibiotics given immunocompromised state,
   consider peeling back once ANC recovers.
   - ID following
   - f/u cultures
   - follow fever curve now with new abd pain.
   .
   #. Abdominal collections.  Given ongoing fevers and JP drain positive
   for enterococcus, concerning for abscess versus colonization.  Switched
   from vanco to dapto on [**3-23**]. VRE daptomycin sensitive.
   - continue dapto
   - surgery recs
   .
   #. Glycemic control.
   - regular ISS given steroid use
   ICU Care
   Nutrition: Tube feeds
   PICC Line - [**2176-3-23**] 02:28 PM
   Arterial Line - [**2176-3-23**] 06:24 PM
   20 Gauge - [**2176-3-23**] 08:44 PM
   Prophylaxis:  DVT: Boots   Stress ulcer: PPI
          VAP: HOB elevation, Mouth care
   Code status: Full code
   Disposition: ICU

2176-03-29 07:44:00 Physician Resident Progress Note
Chief Complaint: CC: Recurrent Lymphoma
   [**Hospital Unit Name 1**] Admission: Hypercarbic Respiratory Failure
   24 Hour Events:
   - new abdominal pain at incision site
   - CT abd/pelvis ordered - dictation (GGO in lung - worsening infection,
   seen secretion at carina, nodules in liver, bl small pleural effusion,
   small fluid collection at the inferior gastric margin, drain not likely
   in the fluid - endoscopic drainage rec if needed, mediasteinal and
   retroperitoneal LAD stable - infection/RCC/lymphoma, small new liver
   lesions lymphoma vs infection).
   - Surgery unconcerned regarding rising lactate 3.9.
   - BMT recs: f/u with CT dictation/findings
   - KUB unhelpful
   - on Pressure support [**8-11**], then had period of apnea was put on MMV
   - transfused one unit platelets, one unit PRBCs
   Allergies:
   Ifosfamide
   Mental status c
   Last dose of Antibiotics:
   Daptomycin - [**2176-3-28**] 12:08 PM
   Voriconazole - [**2176-3-28**] 08:07 PM
   Levofloxacin - [**2176-3-28**] 08:08 PM
   Piperacillin/Tazobactam (Zosyn) - [**2176-3-29**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2176-3-28**] 08:00 AM
   Pantoprazole (Protonix) - [**2176-3-28**] 08:08 PM
   Fentanyl - [**2176-3-28**] 11:30 PM
   Midazolam (Versed) - [**2176-3-28**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-3-29**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 68 (60 - 86) bpm
   BP: 127/65(87) {114/60(80) - 143/82(102)} mmHg
   RR: 13 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.2 kg (admission): 73.3 kg
   Height: 69 Inch
           Total In:
                                                                  3,805 mL
                                                                    806 mL
   PO:
           TF:
                                                                     37 mL
   IVF:
                                                                  2,773 mL
                                                                    246 mL
   Blood products:
   560 mL
   Total out:
                                                                  3,845 mL
                                                                    760 mL
   Urine:
                                                                  3,845 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -40 mL
                                                                     46 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 626 (510 - 626) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 16 cmH2O
   Plateau: 18 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: 7.47/49/95.[**Numeric Identifier 218**]/34/10
   Ve: 7.4 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8 K/uL
   8.5 g/dL
   112 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.8 mEq/L
   23 mg/dL
   99 mEq/L
   142 mEq/L
   25.7 %
   0.8 K/uL
        [image002.jpg]
     Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Differential-Neuts:71.0 %, Band:7.0 %, Lymph:13.0 %, Mono:9.0 %,
   Eos:0.0 %,
                             [**2176-3-27**]  08:50 PM
                             [**2176-3-28**]  03:00 AM
                             [**2176-3-28**]  03:16 AM
                             [**2176-3-28**]  05:13 AM
                             [**2176-3-28**]  07:34 AM
                             [**2176-3-28**]  07:45 AM
                             [**2176-3-28**]  12:00 PM
                             [**2176-3-28**]  02:22 PM
                             [**2176-3-29**]  03:43 AM
                             [**2176-3-29**]  04:01 AM
   WBC
   0.4
   0.5
   0.8
   Hct
   23.9
   21.9
   25.7
   Plt
   7
   34
   23
   8
   Cr
   1.1
   1.0
   0.9
   TropT
   0.02
   TCO2
   29
   33
   32
   33
   37
   Glucose
   180
   276
   220
   112
   Other labs:
    PT / PTT / INR:15.4/34.5/1.3
   CK / CKMB / Troponin-T:28/2/0.02, ALT / AST:[**11-25**]
   Alk Phos / T Bili:341/1.0
   Amylase / Lipase:24/15
   Fibrinogen:474 mg/dL
   Lactic Acid:4.0 mmol/L
   Albumin:2.4 g/dL
   LDH:223 IU/L
   Imaging: CT A/P:
   Microbiology: [**2176-3-26**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST
   - negative
   [**2176-3-25**]
   SPUTUM GRAM STAIN- oropharyngeal flora
   RESPIRATORY CULTURE-rare {GRAM NEGATIVE ROD(S)}
   [**2176-3-24**]  Rapid Respiratory Viral Screen & Culture Respiratory Viral
   Antigen Screen-FINAL; Respiratory Viral Culture-FINAL INPATIENT
   [**2176-3-24**]  BRONCHOALVEOLAR LAVAGE GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL; Immunoflourescent test for Pneumocystis jirovecii
   (carinii)-FINAL; FUNGAL CULTURE-PRELIMINARY INPATIENT
   [**2176-3-24**]  Rapid Respiratory Viral Screen & Culture Respiratory Viral
   Culture-FINAL; Respiratory Viral Antigen Screen-FINAL INPATIENT
   [**2176-3-24**]  BRONCHOALVEOLAR LAVAGE GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL; Immunoflourescent test for Pneumocystis jirovecii
   (carinii)-FINAL; FUNGAL CULTURE-PRELIMINARY
   Assessment and Plan
   Mr. [**Known lastname **] is a 60 yo male s/p auto BMT [**12-12**] with relapsed DLBCL d+19
   of nitrogen mustard therapy with persistent neutropenic and asplenic
   fevers (s/p splenectomy [**2176-2-20**]) and progressive respiratory failure.
   .
   #. Respiratory failure.  Unclear etiology of rapidly worsening hypoxic
   respiratory failure.  Weaned significantly on vent over psat few days.
   Had been on  PSV 8/8 PEEP/40 FiO2 until this AM then required switch to
   AC in setting of abdominal pain.  CXR this am somewhat improved over
   yesterday, c/w pulmonary edema, and patient is + 7.3 L since admission
   to ICU (day 5). Given neutropenia, infectious cause is of concern.
   Patient on broad spectrum antibiotics currently
   dapto/zosyn/leavquin/vori.  B-glucan from [**3-23**] +112; false positives
   can be seen with amox-clav acid, but given that this was negative
   [**3-16**].  Lactate had been trending down, slightly increased over past day
   from 2.3 -> 4.2, now 3.2 this AM.  Will continue treatment with broad
   antibiotics, and diuresed yesterday with IV lasix with good UOP.
   - repeat CXR in AM.
   - continue dapto/zosyn/levaquin/vori
   - continue with lasix diuresis today, goal negative 1L ; [**Hospital1 7**] lytes.
   - wean vent as tolerated
   - empiric steroids; tapered to 40mg solumedrol IV q 12 yesterday.
   - repeat galactomannan, beta glucan.
   .
   # Abdominal Pain. Acute onset of abdominal pain this morning with
   evidence of possible hernia vs. scar formation under incision site with
   minimal oozing BRB from distal part of incision concerning for
   ?herniation of bowel, esp as lactate increased over past few days.
   Other possibile cause of abdominal pain could be abscess formation.
   KUB without evidence of perforation or obstruction, but pt warrants
   further evaluation with CT abd today given acute change from baseline.
   Surgery saw pt this AM and felt that this was less likely hernia and
   more likely scar formation.
   - f/u surgery recs
   - f/u KUB final read
   - On broad spectrum antibiotics to cover GNs.
   - CT abd/pelvis to rule out abscess, hernia, other acute process.
   .
   #.  Hypotension.  On admission, concern for sepsis.  Lactate was
   trending down, now slowly creeping up, off all pressors for 2 days.
   - follow MAP, fluid bolus prn to keep MAP > 65
   - follow UOP
   .
   # Hypernatremia.  Na of 150 over past few days.  IV D5W x 2L given
   yesterday with resolution and serum Na of 143 this AM.
   - Trend Na and give D5W IVF prn.
   .
   #Pancytopenia:  Secondary to chemotherapy, improving. Anti-PLT antibody
   negative. Consider also checking HIT-Ab, as PLTs seem to consistently
   be low. PLTs 7 this AM, so giving 1u PLTs.
   -Trend [**Hospital1 7**] CBC.
   - Transfuse for HCT>21, PLTs > 10 per BMT recs.
   .
   #.  DLBCL . s/p nitrogen mustard with neutropenia.  Patient with
   refractory DLBCL.  Now day +21 of nitrogen and counts are slowly
   recovering.  ANC 400 yesterday now 208.
   - transfuse to Hct of 25, Plts > 10
   - continue neupogen
   - BMT following
   - daily CBC with diff/ anc
   .
   #.  Fevers.  History of ongoing neutropenic and asplenic fevers.  Now
   only low grade temps of 99F.  VRE growing from JP drain at splenectomy
   site (though not clear if this is colonization of the drain).
   - empiric broad spectrum antibiotics given immunocompromised state,
   consider peeling back once ANC recovers.
   - ID following
   - f/u cultures
   - follow fever curve now with new abd pain.
   .
   #. Abdominal collections.  Given ongoing fevers and JP drain positive
   for enterococcus, concerning for abscess versus colonization.  Switched
   from vanco to dapto on [**3-23**]. VRE daptomycin sensitive.
   - continue dapto
   - surgery recs
   .
   #. Glycemic control.
   - regular ISS given steroid use
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2176-3-23**] 02:28 PM
   Arterial Line - [**2176-3-23**] 06:24 PM
   20 Gauge - [**2176-3-28**] 09:58 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2176-03-29 10:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failiure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT SCAN--increased nodules in liver, persistent fluid collection,
   persistent diffuse opacities on CT scan
   Patient maintained on PSV across the night
   Allergies:
   Ifosfamide
   Mental status c
   Last dose of Antibiotics:
   Daptomycin - [**2176-3-28**] 12:08 PM
   Levofloxacin - [**2176-3-28**] 08:08 PM
   Piperacillin/Tazobactam (Zosyn) - [**2176-3-29**] 02:00 AM
   Voriconazole - [**2176-3-29**] 09:14 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Fentanyl - [**2176-3-28**] 11:30 PM
   Midazolam (Versed) - [**2176-3-28**] 11:30 PM
   Pantoprazole (Protonix) - [**2176-3-29**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Tachycardia
   Allergy / Immunology: Immunocompromised
   Flowsheet Data as of  [**2176-3-29**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 82 (60 - 86) bpm
   BP: 133/70(94) {114/63(80) - 143/82(102)} mmHg
   RR: 20 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.2 kg (admission): 73.3 kg
   Height: 69 Inch
           Total In:
                                                                  3,805 mL
                                                                  1,061 mL
   PO:
           TF:
                                                                     37 mL
   IVF:
                                                                  2,773 mL
                                                                    379 mL
   Blood products:
   682 mL
   Total out:
                                                                  3,845 mL
                                                                  1,080 mL
   Urine:
                                                                  3,845 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -40 mL
                                                                    -19 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 626 (510 - 626) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 16 cmH2O
   Plateau: 18 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: 7.47/49/95.[**Numeric Identifier 218**]/34/10
   Ve: 7.4 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   46 K/uL
   112 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.8 mEq/L
   23 mg/dL
   99 mEq/L
   142 mEq/L
   25.7 %
   0.8 K/uL
        [image002.jpg]
                             [**2176-3-28**]  03:00 AM
                             [**2176-3-28**]  03:16 AM
                             [**2176-3-28**]  05:13 AM
                             [**2176-3-28**]  07:34 AM
                             [**2176-3-28**]  07:45 AM
                             [**2176-3-28**]  12:00 PM
                             [**2176-3-28**]  02:22 PM
                             [**2176-3-29**]  03:43 AM
                             [**2176-3-29**]  04:01 AM
                             [**2176-3-29**]  08:48 AM
   WBC
   0.4
   0.5
   0.8
   Hct
   23.9
   21.9
   25.7
   Plt
   7
   34
   23
   8
   46
   Cr
   1.1
   1.0
   0.9
   TropT
   0.02
   TCO2
   33
   32
   33
   37
   Glucose
   180
   276
   220
   112
   Other labs: PT / PTT / INR:15.4/34.5/1.3, CK / CKMB /
   Troponin-T:28/2/0.02, ALT / AST:[**11-25**], Alk Phos / T Bili:341/1.0,
   Amylase / Lipase:24/15, Differential-Neuts:71.0 %, Band:7.0 %,
   Lymph:13.0 %, Mono:9.0 %, Eos:0.0 %, Fibrinogen:474 mg/dL, Lactic
   Acid:4.0 mmol/L, Albumin:2.4 g/dL, LDH:223 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Microbiology: No new culture results
   Assessment and Plan
   60 yo male with admission following repeat chemotherapy for relapsed
   Diffuse Large B-cell lyphoma with nitrogen mustard given and now
   admitted to ICU with recurrent respiratory failure.  He has persistent
   respiratory failure with hypoxa and continued need for PEEP and PSV
   support.
   1)       RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])-
   -Continue with negative fluid balance
   -Will continue to support with hydration peri-CT scan
   -Will decreased PEEP to 5 and FIO2 to 40%
   -If continued hypoxemia seen and worsening with wean will have to move
   to diuresis
   -Continue with Solumedrol
   2)Metabolic Alkalosis-
   -Will have to be careful with further diruesis and with ongoing steroid
   dosing
   -If return to diuresis needed will have to consider Carbonic Anhydrase
   Inhibitor with possible diamox
   -Will lead to decrease in severity of apnea and certral impairment of
   drive
   3) SEPSIS WITHOUT ORGAN DYSFUNCTION
   -ZOsyn/Daptomycin/Levoflox/Vorconazole
   -Continue with negative fluid balance today
   -Follow lactate and with hepatic dysfunction
   ICU Care
   Nutrition: Tube feeds if able to be tolerated
   Glycemic Control:  Well controlled
   Lines:
   PICC Line - [**2176-3-23**] 02:28 PM
   Arterial Line - [**2176-3-23**] 06:24 PM
   20 Gauge - [**2176-3-28**] 09:58 AM
   Prophylaxis:
   DVT: Nothing with decreased platelets
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2176-03-29 12:35:00 Physician Resident Progress Note
Chief Complaint: CC: Recurrent Lymphoma
   [**Hospital Unit Name 1**] Admission: Hypercarbic Respiratory Failure
   24 Hour Events:
   - new abdominal pain at incision site
   - CT abd/pelvis ordered - dictation (GGO in lung - worsening infection,
   seen secretion at carina, nodules in liver, bl small pleural effusion,
   small fluid collection at the inferior gastric margin, drain not likely
   in the fluid - endoscopic drainage rec if needed, mediasteinal and
   retroperitoneal LAD stable - infection/RCC/lymphoma, small new liver
   lesions lymphoma vs infection).
   - Surgery unconcerned regarding rising lactate 3.9.
   - BMT recs: f/u with CT dictation/findings
   - KUB unhelpful
   - on Pressure support [**8-11**], then had period of apnea was put on MMV
   - transfused one unit platelets, one unit PRBCs
   Allergies:
   Ifosfamide
   Mental status c
   Last dose of Antibiotics:
   Daptomycin - [**2176-3-28**] 12:08 PM
   Voriconazole - [**2176-3-28**] 08:07 PM
   Levofloxacin - [**2176-3-28**] 08:08 PM
   Piperacillin/Tazobactam (Zosyn) - [**2176-3-29**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2176-3-28**] 08:00 AM
   Pantoprazole (Protonix) - [**2176-3-28**] 08:08 PM
   Fentanyl - [**2176-3-28**] 11:30 PM
   Midazolam (Versed) - [**2176-3-28**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-3-29**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 68 (60 - 86) bpm
   BP: 127/65(87) {114/60(80) - 143/82(102)} mmHg
   RR: 13 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.2 kg (admission): 73.3 kg
   Height: 69 Inch
           Total In:
                                                                  3,805 mL
                                                                    806 mL
   PO:
           TF:
                                                                     37 mL
   IVF:
                                                                  2,773 mL
                                                                    246 mL
   Blood products:
   560 mL
   Total out:
                                                                  3,845 mL
                                                                    760 mL
   Urine:
                                                                  3,845 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -40 mL
                                                                     46 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 626 (510 - 626) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 16 cmH2O
   Plateau: 18 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: 7.47/49/95.[**Numeric Identifier 218**]/34/10
   Ve: 7.4 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8 K/uL
   8.5 g/dL
   112 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.8 mEq/L
   23 mg/dL
   99 mEq/L
   142 mEq/L
   25.7 %
   0.8 K/uL
        [image002.gif]
     Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Differential-Neuts:71.0 %, Band:7.0 %, Lymph:13.0 %, Mono:9.0 %,
   Eos:0.0 %,
                             [**2176-3-27**]  08:50 PM
                             [**2176-3-28**]  03:00 AM
                             [**2176-3-28**]  03:16 AM
                             [**2176-3-28**]  05:13 AM
                             [**2176-3-28**]  07:34 AM
                             [**2176-3-28**]  07:45 AM
                             [**2176-3-28**]  12:00 PM
                             [**2176-3-28**]  02:22 PM
                             [**2176-3-29**]  03:43 AM
                             [**2176-3-29**]  04:01 AM
   WBC
   0.4
   0.5
   0.8
   Hct
   23.9
   21.9
   25.7
   Plt
   7
   34
   23
   8
   Cr
   1.1
   1.0
   0.9
   TropT
   0.02
   TCO2
   29
   33
   32
   33
   37
   Glucose
   180
   276
   220
   112
   Other labs:
    PT / PTT / INR:15.4/34.5/1.3
   CK / CKMB / Troponin-T:28/2/0.02, ALT / AST:[**11-25**]
   Alk Phos / T Bili:341/1.0
   Amylase / Lipase:24/15
   Fibrinogen:474 mg/dL
   Lactic Acid:4.0 mmol/L
   Albumin:2.4 g/dL
   LDH:223 IU/L
   Imaging: CT A/P:
   Microbiology: [**2176-3-26**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST
   - negative
   [**2176-3-25**]
   SPUTUM GRAM STAIN- oropharyngeal flora
   RESPIRATORY CULTURE-rare {GRAM NEGATIVE ROD(S)}
   [**2176-3-24**]  Rapid Respiratory Viral Screen & Culture Respiratory Viral
   Antigen Screen-FINAL; Respiratory Viral Culture-FINAL INPATIENT
   [**2176-3-24**]  BRONCHOALVEOLAR LAVAGE GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL; Immunoflourescent test for Pneumocystis jirovecii
   (carinii)-FINAL; FUNGAL CULTURE-PRELIMINARY INPATIENT
   [**2176-3-24**]  Rapid Respiratory Viral Screen & Culture Respiratory Viral
   Culture-FINAL; Respiratory Viral Antigen Screen-FINAL INPATIENT
   [**2176-3-24**]  BRONCHOALVEOLAR LAVAGE GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL; Immunoflourescent test for Pneumocystis jirovecii
   (carinii)-FINAL; FUNGAL CULTURE-PRELIMINARY
   Assessment and Plan
   Mr. [**Known lastname **] is a 60 yo male s/p auto BMT [**12-12**] with relapsed DLBCL d+19
   of nitrogen mustard therapy with persistent neutropenic and asplenic
   fevers (s/p splenectomy [**2176-2-20**]) and progressive respiratory failure.
   .
   #. Respiratory failure.  Siginificant ground glass opacities on CT
   scan.  Improvement on CXR over yesterday with fluid balance even
   yesterday.  Likely combination of infectious process, fluid overload
   (as lasix responsive in prior days).
   - daily CXR
   - continue dapto/zosyn/levaquin/vori
   - decrase PEEP to 5, FiO2 to 40, if doesn not tolerate, continue to
   diurese.
   - wean vent as tolerated
   - continue steroids
   .
   # Abdominal Pain/Abdominal Fluid Collections. Pain improved today.
   Fluid collection on CT may be new and/or ineffectively draining with
   current drain.  Per CT read may be drainable endoscopically.  Difficult
   to assess possible infection as patient neutropenic and on steroids.
   Last culture from drain was VRE susceptible to daptomycin.  Lactate
   increasing.
   - f/u surgery recs
   - f/u final CT read
   - discuss feasibility of endoscopic drainage of fluid collection with
   ERCP.
   - continue broad spectrum antibiotics.
   .
   # Metabolic Acidosis.  Likely contraction alkalosis from diuresis and
   effect of steroids.
   - follow lytes
   .
   #Pancytopenia:  Secondary to chemotherapy, improving, though still
   requiring frequent transfusions of platelets and PRBCs
   -Trend [**Hospital1 7**] CBC.
   - Transfuse for HCT>21, PLTs > 10 per BMT recs.
   .
   #.  DLBCL . s/p nitrogen mustard with neutropenia.  Patient with
   refractory DLBCL.  Now day +21 of nitrogen and counts are slowly
   recovering.  ANC 560
   - transfuse to Hct of 25, Plts > 10
   - continue neupogen
   - BMT following
   - daily CBC with diff/ anc
   .
   #.  Fevers.  History of ongoing neutropenic and asplenic fevers.  Now
   only low grade temps of 99F.  VRE growing from JP drain at splenectomy
   site (though not clear if this is colonization of the drain).
   - empiric broad spectrum antibiotics given immunocompromised state,
   consider peeling back once ANC recovers.
   - ID following
   - f/u cultures
   - follow fever curve now with new abd pain.
   .
   #. Glycemic control.
   - regular ISS given steroid use
   ICU Care
   Nutrition:
   Comments: Tube feeds held for [**Last Name (LF) 2208**], [**First Name3 (LF) **] restart dependent on ?
   endoscopic drainage.
   Glycemic Control:
   Lines:
   PICC Line - [**2176-3-23**] 02:28 PM
   Arterial Line - [**2176-3-23**] 06:24 PM
   20 Gauge - [**2176-3-28**] 09:58 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2176-03-30 07:56:00 Physician Resident Progress Note
Chief Complaint: CC: Shortness of Breath
   [**Hospital Unit Name 1**] Admission: Repiratory Failure
   24 Hour Events:
   - [**Doctor Last Name 21**] spoke to radiology re: fluid collection, described as "tiny"
   probably not worth high risk endoscopic drainage.
   - BMT: wean steroids to 30 IV BID
   - Weaned [**Doctor Last Name 494**] to PS 5/5 (from [**10-11**])
   - SBT -> SaO2 63% -> back on [**5-8**] --> PS 8/5
   - Patient developed tachypnea, tachycardia, and difficulty breathing at
   midnight which improved with sedation and increased pressure support to
   [**8-8**].  CXR showed ? worsening infiltrates.
 BLOOD CULTURED - At [**2176-3-29**] 12:45 PM
 URINE CULTURE - At [**2176-3-29**] 12:45 PM
 BLOOD CULTURED - At [**2176-3-29**] 03:30 PM
   Allergies:
   Ifosfamide
   Mental status c
   Last dose of Antibiotics:
   Daptomycin - [**2176-3-28**] 12:08 PM
   Voriconazole - [**2176-3-29**] 08:00 PM
   Levofloxacin - [**2176-3-29**] 08:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2176-3-30**] 02:04 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-3-29**] 08:00 PM
   Fentanyl - [**2176-3-30**] 01:00 AM
   Midazolam (Versed) - [**2176-3-30**] 02:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-3-30**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 38
C (100.4
   Tcurrent: 36.3
C (97.3
   HR: 87 (61 - 107) bpm
   BP: 132/63(85) {102/53(71) - 150/78(104)} mmHg
   RR: 21 (13 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.2 kg (admission): 73.3 kg
   Height: 69 Inch
           Total In:
                                                                  2,037 mL
                                                                    902 mL
   PO:
           TF:
                                                                     60 mL
                                                                    169 mL
   IVF:
                                                                  1,005 mL
                                                                    426 mL
   Blood products:
                                                                    812 mL
                                                                    187 mL
   Total out:
                                                                  2,610 mL
                                                                  1,045 mL
   Urine:
                                                                  2,610 mL
                                                                  1,045 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -573 mL
                                                                   -143 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 524 (393 - 538) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 13 cmH2O
   SpO2: 95%
   ABG: 7.42/50/77.[**Numeric Identifier 143**]/30/6
   Ve: 8.4 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: Thin, Diaphoretic, Significant respiratory distress
   off sedation.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, jp drain, left flank
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   14 K/uL
   7.7 g/dL
   153 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.3 mEq/L
   24 mg/dL
   103 mEq/L
   143 mEq/L
   23.4 %
   1.0 K/uL
        [image002.jpg]
                             [**2176-3-29**]  03:43 AM
                             [**2176-3-29**]  04:01 AM
                             [**2176-3-29**]  08:48 AM
                             [**2176-3-29**]  11:28 AM
                             [**2176-3-29**]  12:47 PM
                             [**2176-3-29**]  03:00 PM
                             [**2176-3-29**]  03:05 PM
                             [**2176-3-29**]  05:19 PM
                             [**2176-3-30**]  03:12 AM
                             [**2176-3-30**]  03:20 AM
   WBC
   0.8
   1.1
   1.0
   Hct
   25.7
   25.2
   23.4
   Plt
   8
   46
   51
   39
   14
   Cr
   0.9
   0.9
   0.8
   TCO2
   37
   34
   35
   33
   34
   Glucose
   112
   212
   153
   Other labs: PT / PTT / INR:17.1/31.5/1.5, CK / CKMB /
   Troponin-T:28/2/0.02, ALT / AST:[**11-25**], Alk Phos / T Bili:341/1.0,
   Amylase / Lipase:24/15, Differential-Neuts:85.0 %, Band:4.0 %,
   Lymph:10.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:485 mg/dL, Lactic
   Acid:4.0 mmol/L, Albumin:2.4 g/dL, LDH:223 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   CXR today: worsening infiltrates
   Imaging: CT Chest:
   1. Significant worsening of bilateral ground-glass opacity and
   bibasilar
   consolidations with small bilateral pleural effusions compatible with
   widespread infectious process, particularly given its acute onset and
   worsening since the exmination of [**2176-3-19**]. A component of
   failure/volume overload may also be present given the central
   ground-glass opacification.
   2. Small fluid collection inferior to the gastric body with drain in
   the left
   upper quadrant. It is difficult to assess whether the drain is within
   the
   collection or directly adjacent to it. However, given its location, it
   does
   not appear to be amenable to radiology image-guided drainage; and if
   clinically indicated, endoscopic aspiration may be considered.
   3. Persistent mediastinal and retroperitoneal lymphadenopathy. The
   retroperitoneal lymphadenopathy may be related to patient's lymphoma or
   be
   reactive in the setting of infection. Given close proximity to the
   nephrectomy bed with soft tissue concerning for RCC recurrence, renal
   cell carcinoma is also a consideration. Persistent linear enhancing
   focus among surgical clips in the left nephrectomy bed appear similar
   to outside examinations dating to 4/[**2175**].
   4. Small new liver lesions, concerning for lymphomatous involvement
   versus
   infection.
   5. Increased now moderate abdominal ascites.
   6. Persistent splenic vein thrombosis.
   Microbiology: [**2176-3-29**] 5:45 pm Mini-BAL
   GRAM STAIN (Final [**2176-3-29**]):
    1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
   NO MICROORGANISMS SEEN.
    RESPIRATORY CULTURE (Preliminary):
   Immunoflourescent test for Pneumocystis jirovecii (carinii)
   (Preliminary):
   ACID FAST SMEAR (Preliminary):
   ACID FAST CULTURE (Preliminary):
   Assessment and Plan
   Mr. [**Known lastname **] is a 60 yo male s/p auto BMT [**12-12**] with relapsed DLBCL d+22
   of nitrogen mustard therapy with persistent neutropenic and asplenic
   fevers (s/p splenectomy [**2176-2-20**]) and progressive respiratory failure.
   .
   #. Respiratory failure.  Did poorly on SBT today, using significant
   accessory muscles to breath, look very uncomfortable off sedation on
   exam. Significant ground glass opacities on CT scan.  Chest x-ray
   worsening today, focal infiltrates, no signs of fluid overload.  Likely
   worsening of lymphoma, with possible contribution of infectious process
   and some element of pulmonary edema.    If worsening lymphoma is the
   primary cause of his respiratory failure, he may not be able to be
   extubated.
   - daily CXR
   - continue dapto/zosyn/levaquin/vori
   - increase pressure support, sedation to comfort
   - continue steroids
   .
   # Abdominal Pain/Abdominal Fluid Collections. Pain improved today.
   Fluid collection on CT may be new and/or ineffectively draining with
   current drain.  Per CT read may be drainable endoscopically.  Difficult
   to assess possible infection as patient neutropenic and on steroids.
   Last culture from drain was VRE susceptible to daptomycin.
   - follow lactate
   - f/u surgery recs
   - continue broad spectrum antibiotics.
   .
   .
   #Pancytopenia:  Secondary to chemotherapy, improving, though still
   requiring frequent transfusions of platelets and PRBCs.  Given 1 U PRBC
   this am.
   - Trend [**Hospital1 7**] CBC.
   - Transfuse for HCT>21, PLTs > 10 per BMT recs.
   .
   #.  DLBCL . s/p nitrogen mustard with neutropenia.  Patient with
   refractory DLBCL.  Now day +22 of nitrogen and counts are slowly
   recovering.  ANC 850
   - transfuse to Hct of 25, Plts > 10
   - continue neupogen
   - BMT following
   - daily CBC with diff/ anc
   .
   #.  Fevers.  History of ongoing neutropenic and asplenic fevers.  Now
   only low grade temps of 99F.  VRE growing from JP drain at splenectomy
   site (though not clear if this is colonization of the drain).
   - empiric broad spectrum antibiotics given immunocompromised state,
   consider peeling back once ANC recovers.
   - ID following
   - f/u cultures
   .
   #. Glycemic control.
   -          regular ISS given steroid use
   #. Goals of care.  Given apparent progression of lymphoma, difficulty
   weaning from [**Last Name (LF) 494**], [**First Name3 (LF) **] need to readdress goals of care.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-3-29**] 06:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2176-3-23**] 02:28 PM
   Arterial Line - [**2176-3-23**] 06:24 PM
   20 Gauge - [**2176-3-28**] 09:58 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   I have seen and examined the patient and concur with Dr [**Last Name (STitle) 953**]
 note
   above.
   Mr [**Known lastname **] is unable to wean on decreasing CPAP/ PSV support today with
   clear evidence for accessory muscle use, worsening hypoxemia and
   diaphoresis. This, despite RSBI of 35.
   His CXR does NOT look improved and has both interstitial and alveolar
   infiltrates in Rt> Lt lung without effusions. His BM Bx and splenectomy
   specimens both reveal extensive lymphomatous involvement.
   I have discussed this with Dr [**Last Name (STitle) 21**] today and my hopes for extubation
   are low since there has not been resolution of infiltrates even with
   steroids. VATS unlikely to change the outcome significantly.
   His ANC is 840.
   We will increase steroids for another 48 hrs as ANC returns in the hope
   that the inflammatory component may respond. Oncology team will decide
   regarding need for repeat BM Bx but suspect family meeting will be
   needed to review overall goals of care given lack of improvement on
   ventilator.
   [**First Name8 (NamePattern2) 3093**] [**Name8 (MD) **], M.D.
   Pulmonary Critical care and Sleep Medicine,
   CC time: 55 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2176-3-30**] 01:16 PM ------

2176-03-31 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2176-3-30**] 08:47 PM
   - per ID recs: changed zosyn to [**Last Name (un) 614**] for better ESBL coverage, gent
   instead of levoquin for better GNR coverage (see sputum below), and
   check vori trough given poss of fungal infection, though low suspicion
   - Sputum from [**3-25**] growing GNRs:
         MODERATE GROWTH Commensal Respiratory Flora.
         GRAM NEGATIVE ROD(S).    RARE GROWTH.
            PROBABLE CAPNOCYTOPHAGA SPECIES (? respiratory flora).
   - not weanable or extubatable given resp distress on [**8-8**].
   - BMT to discuss prognosis w family, goals of care given extensive
   malignancy.
   - Per BMT: decrease steroids to 40 mg [**Hospital1 7**].  Also okay with changing
   levoflox to gent for dbl GNR coverage.
   - antibiotics at least til ANC >1000.
   -Spiked temp of 100.4F axillary o/n so cultured.
   - Brown, loose stool x3. Colace and reglan resumed.
   - Tube feeds running, minimal residuals at goal 52cc/hr
   Allergies:
   Ifosfamide
   Mental status c
   Last dose of Antibiotics:
   Levofloxacin - [**2176-3-29**] 08:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2176-3-30**] 10:00 AM
   Daptomycin - [**2176-3-30**] 12:37 PM
   Gentamicin - [**2176-3-30**] 08:00 PM
   Voriconazole - [**2176-3-30**] 08:00 PM
   Meropenem - [**2176-3-31**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-3-30**] 08:00 PM
   Midazolam (Versed) - [**2176-3-31**] 06:00 AM
   Fentanyl - [**2176-3-31**] 06:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-3-31**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 38
C (100.4
   Tcurrent: 36.8
C (98.2
   HR: 109 (65 - 145) bpm
   BP: 137/60(83) {109/60(77) - 170/90(114)} mmHg
   RR: 19 (15 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79.2 kg (admission): 73.3 kg
   Height: 69 Inch
           Total In:
                                                                  3,588 mL
                                                                    440 mL
   PO:
           TF:
                                                                    826 mL
   IVF:
                                                                  1,780 mL
                                                                    244 mL
   Blood products:
                                                                    592 mL
                                                                    196 mL
   Total out:
                                                                  3,000 mL
                                                                  1,155 mL
   Urine:
                                                                  3,000 mL
                                                                  1,155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    588 mL
                                                                   -715 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 485 (260 - 649) mL
   PS : 10 cmH2O
   RR (Spontaneous): 38
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: 7.39/40/99.[**Numeric Identifier 126**]/24/0
   Ve: 16.1 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: Thin, pale, no significant distress
   Eyes / Conjunctiva: EOMI
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, rate 110s
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: clear anteriorly and laterally bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present; jp drain, left flank
   Extremities:  diffuse 1+ periph edema
   Skin:  Not assessed
   Labs / Radiology
   CXR
 patch bilateral pulm opacities, worsened mildly on left
   7 K/uL
   9.7 g/dL
   170 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.5 mEq/L
   24 mg/dL
   108 mEq/L
   141 mEq/L
   28.7 %
   1.3 K/uL
        [image002.jpg]
   Repeat Platelet count 46k      Gran Ct 760
                             [**2176-3-29**]  12:47 PM
                             [**2176-3-29**]  03:00 PM
                             [**2176-3-29**]  03:05 PM
                             [**2176-3-29**]  05:19 PM
                             [**2176-3-30**]  03:12 AM
                             [**2176-3-30**]  03:20 AM
                             [**2176-3-30**]  11:02 AM
                             [**2176-3-30**]  02:42 PM
                             [**2176-3-31**]  03:06 AM
                             [**2176-3-31**]  03:17 AM
   WBC
   1.1
   1.0
   1.3
   1.3
   Hct
   25.2
   23.4
   31
   27.7
   28.7
   Plt
   39
   14
   39
   7
   Cr
   0.9
   0.8
   0.8
   TCO2
   34
   35
   33
   34
   28
   25
   Glucose
   [**Telephone/Fax (3) 14218**]
   Other labs: PT / PTT / INR:14.0/31.3/1.2, CK / CKMB /
   Troponin-T:28/2/0.02, ALT / AST:[**11-25**], Alk Phos / T Bili:341/1.0,
   Amylase / Lipase:24/15, Differential-Neuts:85.0 %, Band:4.0 %,
   Lymph:10.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:485 mg/dL, Lactic
   Acid:2.6 mmol/L, Albumin:2.4 g/dL, LDH:225 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 60 yo male s/p auto BMT [**12-12**] with relapsed DLBCL d+22
   of nitrogen mustard therapy with persistent neutropenic and asplenic
   fevers (s/p splenectomy [**2176-2-20**]) and progressive respiratory failure.
   #. Respiratory failure.
   Did poorly on SBT yesterday, using significant accessory muscles to
   breath, look very uncomfortable off sedation on exam.
   RT attempted to wean to psv5/peep5 but became tachypneic with rr >38,hr
   >130 and c/o sob this AM.
   Significant ground glass opacities on CT scan.  Chest x-ray worsened
   yesterday, focal infiltrates, no signs of fluid overload.  [**Month (only) 51**] be
   worsening of lymphoma, with possible contribution of infectious process
   and some element of pulmonary edema.    If worsening lymphoma is the
   primary cause of his respiratory failure, he may not be able to be
   extubated.  DCed levo and zosyn yesterday, per ID.
   - daily CXR
   - continue daptomycin day #10 , meropenem/gentamicin day#2 ,
   voriconazole
   - f/u gent trough [**4-1**] am
   - increase pressure support, sedation to comfort
   - continue steroids in order to decrease inflammatory process; on
   methylprednisolone 40mg IV Q12h since yesterday
 will decrease back to
   previous dose tomorrow AM
   - Goals of care discussion by BMT
   # Abdominal Pain/Abdominal Fluid Collections.
   Pain improved.  Fluid collection on CT likely not infectious.  [**Month (only) 51**] be
   drainable but procedure in this patient would be risky for infection
   given neutropenia and steroids.  Last culture from drain was VRE
   susceptible to daptomycin.  Lactate within normal limits.
   - follow lactate
   - f/u surgery recs
   - continue broad spectrum antibiotics.
   - goals of care discussion w primary oncologist Monday
   #Pancytopenia:
   Secondary likely to lymphoma and possibly last chemotherapy round three
   weeks ago. Improving, though still requiring frequent transfusions of
   platelets and PRBCs.
   - Trend [**Hospital1 7**] CBC.
   - Transfuse for HCT>21, PLTs > 10 per BMT recs.
   #.  DLBCL
   s/p nitrogen mustard with neutropenia.  Patient with refractory DLBCL.
   Now day +23 of nitrogen and counts are slowly recovering.  [**Doctor First Name 272**] Ct
   760.  Lymphoma present in bone marrow and elsewhere, likely has spread
   to lungs making extubation difficult.
   - transfuse to Hct of 25, Plts > 10
   - continue neupogen
   - BMT following
   - daily CBC with diff/ anc
   #.  Fevers
   History of ongoing neutropenic and asplenic fevers.   Low grade fevers
   persist.  VRE growing from JP drain at splenectomy site (though not
   clear if this is colonization of the drain).
   - empiric broad spectrum antibiotics given immunocompromised state,
   consider peeling back once ANC recovers >1000
   - ID following
   - f/u cultures
   #. Glycemic control.
   -          regular ISS given steroid use
   #. Goals of care
   Given apparent progression of lymphoma, difficulty weaning from vent,
   will need to readdress goals of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2176-3-23**] 02:28 PM
   Arterial Line - [**2176-3-23**] 06:24 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   I have seen and examined the patient and concur with the note above by
   Dr [**Last Name (STitle) 10501**].
   Mr [**Known lastname **] is alert but unable to tolerate the wean on the ventilator
   with easy tachypnea and diaphoresis on CPAP/ PSV of [**8-11**] cms
   I am concerned he will be unable to sustain spontaneous ventilation in
   the absence of clearing of infiltrates and O2 need.
   Dr [**Last Name (STitle) 21**] will speak with his wife regarding his wishes for prolonged
   heroic support.
   In the meantime, we will continue antibiotics and steroids and low
   level sedation as he continues to be assisted on the ventilator.
   Antibiotics per ID staff recs.
   [**First Name8 (NamePattern2) 3093**] [**Doctor Last Name **], M. D>
   Pulmonary, Critical Care and Sleep Medicine.
   CC time: 45 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2176-3-31**] 11:58 AM ------

2176-04-01 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2176-3-31**] 06:40 PM
   - patient had requested extubation multiple times this morning and
   early afternoon, but after 2nd conversation w dr. [**Last Name (STitle) 21**] (Dr. [**Last Name (STitle) 21**]
   also spoke w primary oncologist over phone), pt decided he does not
   want to take the risk of extubation if he cannot breathe on his own
   - primary oncologist to be back [**4-1**]
   - ID Recs: switch Dapto back to Vanc for better pulm coverage, DC Gent;
   capnocytopraga normal mouth flora, but case reports of bacteremia/pna
   in BMT/splenectomy pts, so will cont Abx and ID requested sensis from
   Micro
   - 5:30pm - sinus tach to 160s after diarrheal episode, fever to 100.1,
   suctioning, cleaning (was temporarily switched to Assist Control while
   cleaned)... resolved after cleaning back to 120s (Switched back to CPAP
   [**10-8**])
   - 6:20pm another episode of tachycardia to 150s --> 12lead EKG shows...
   - transfused 1u platelets for pm Platelet count 11k
   - sputum from [**3-30**] shows GPCs in pairs/clusters ; [**3-29**] mini-BAL Neg for
   PCP; C diff Neg
   Allergies:
   Ifosfamide
   Mental status c
   Last dose of Antibiotics:
   Levofloxacin - [**2176-3-29**] 08:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2176-3-30**] 10:00 AM
   Gentamicin - [**2176-3-30**] 08:00 PM
   Daptomycin - [**2176-3-31**] 12:08 PM
   Vancomycin - [**2176-3-31**] 04:00 PM
   Meropenem - [**2176-3-31**] 04:35 PM
   Voriconazole - [**2176-3-31**] 07:39 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-3-31**] 07:58 AM
   Midazolam (Versed) - [**2176-3-31**] 11:54 PM
   Fentanyl - [**2176-4-1**] 06:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-4-1**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.9
C (100.3
   HR: 104 (72 - 160) bpm
   BP: 154/77(102) {115/57(76) - 162/98(120)} mmHg
   RR: 21 (13 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79.2 kg (admission): 73.3 kg
   Height: 69 Inch
             Total In:
                                                                  3,131 mL
                                                                    531 mL
   PO:
             TF:
                                                                    596 mL
                                                                    384 mL
   IVF:
                                                                  1,741 mL
                                                                    147 mL
   Blood products:
                                                                    584 mL
   Total out:
                                                                  3,545 mL
                                                                  1,040 mL
   Urine:
                                                                  3,545 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -414 mL
                                                                   -509 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 572 (549 - 954) mL
   PS : 12 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.43/36/78.[**Numeric Identifier 181**]/22/0
   Ve: 12.6 L/min
   PaO2 / FiO2: 197
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   21 K/uL
   8.8 g/dL
   174 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.0 mEq/L
   27 mg/dL
   108 mEq/L
   141 mEq/L
   26.5 %
   1.8 K/uL
        [image002.jpg]
                             [**2176-3-30**]  11:02 AM
                             [**2176-3-30**]  02:42 PM
                             [**2176-3-31**]  03:06 AM
                             [**2176-3-31**]  03:17 AM
                             [**2176-3-31**]  06:48 AM
                             [**2176-3-31**]  02:38 PM
                             [**2176-3-31**]  06:40 PM
                             [**2176-3-31**]  11:02 PM
                             [**2176-4-1**]  04:09 AM
                             [**2176-4-1**]  04:22 AM
   WBC
   1.3
   1.3
   1.6
   1.8
   Hct
   31
   27.7
   28.7
   29.2
   26.5
   Plt
   39
   7
   46
   11
   42
   21
   Cr
   0.8
   0.7
   0.7
   TCO2
   28
   25
   20
   25
   Glucose
   170
   209
   174
   Other labs: PT / PTT / INR:12.9/31.1/1.1, CK / CKMB /
   Troponin-T:28/2/0.02, ALT / AST:[**11-25**], Alk Phos / T Bili:341/1.0,
   Amylase / Lipase:24/15, Differential-Neuts:85.0 %, Band:4.0 %,
   Lymph:10.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:485 mg/dL, Lactic
   Acid:2.6 mmol/L, Albumin:2.4 g/dL, LDH:225 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 60 yo male s/p auto BMT [**12-12**] with relapsed DLBCL d+22
   of nitrogen mustard therapy with persistent neutropenic and asplenic
   fevers (s/p splenectomy [**2176-2-20**]) and progressive respiratory failure.
   #. Respiratory failure.
   Did poorly on SBT yesterday, using significant accessory muscles to
   breath, look very uncomfortable off sedation on exam.
   RT attempted to wean to psv5/peep5 but became tachypneic with rr >38,hr
   >130 and c/o sob this AM.
   Significant ground glass opacities on CT scan.  Chest x-ray worsened
   yesterday, focal infiltrates, no signs of fluid overload.  [**Month (only) 51**] be
   worsening of lymphoma, with possible contribution of infectious process
   and some element of pulmonary edema.    If worsening lymphoma is the
   primary cause of his respiratory failure, he may not be able to be
   extubated.  DCed levo and zosyn yesterday, per ID.
   - daily CXR
   - continue daptomycin day #10 , meropenem/gentamicin day#2 ,
   voriconazole
   - f/u gent trough [**4-1**] am
   - increase pressure support, sedation to comfort
   - continue steroids in order to decrease inflammatory process; on
   methylprednisolone 40mg IV Q12h since yesterday
 will decrease back to
   previous dose tomorrow AM
   - Goals of care discussion by BMT
   # Abdominal Pain/Abdominal Fluid Collections.
   Pain improved.  Fluid collection on CT likely not infectious.  [**Month (only) 51**] be
   drainable but procedure in this patient would be risky for infection
   given neutropenia and steroids.  Last culture from drain was VRE
   susceptible to daptomycin.  Lactate within normal limits.
   - follow lactate
   - f/u surgery recs
   - continue broad spectrum antibiotics.
   - goals of care discussion w primary oncologist Monday
   #Pancytopenia:
   Secondary likely to lymphoma and possibly last chemotherapy round three
   weeks ago. Improving, though still requiring frequent transfusions of
   platelets and PRBCs.
   - Trend [**Hospital1 7**] CBC.
   - Transfuse for HCT>21, PLTs > 10 per BMT recs.
   #.  DLBCL
   s/p nitrogen mustard with neutropenia.  Patient with refractory DLBCL.
   Now day +23 of nitrogen and counts are slowly recovering.  [**Doctor First Name 272**] Ct
   760.  Lymphoma present in bone marrow and elsewhere, likely has spread
   to lungs making extubation difficult.
   - transfuse to Hct of 25, Plts > 10
   - continue neupogen
   - BMT following
   - daily CBC with diff/ anc
   #.  Fevers
   History of ongoing neutropenic and asplenic fevers.   Low grade fevers
   persist.  VRE growing from JP drain at splenectomy site (though not
   clear if this is colonization of the drain).
   - empiric broad spectrum antibiotics given immunocompromised state,
   consider peeling back once ANC recovers >1000
   - ID following
   - f/u cultures
   #. Glycemic control.
   -          regular ISS given steroid use
   #. Goals of care
   Given apparent progression of lymphoma, difficulty weaning from vent,
   will need to readdress goals of care.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-4-1**] 12:20 AM 52 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2176-3-23**] 02:28 PM
   Arterial Line - [**2176-3-23**] 06:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-04-02 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Mr. [**Known lastname **] is a 60 yo male s/p auto BMT [**12-12**] with relapsed DLBCL d+24
   of nitrogen mustard therapy with persistent neutropenic and asplenic
   fevers (s/p splenectomy [**2176-2-20**]) and progressive respiratory failure.
   24 Hour Events:
 FEVER - 102.4
F - [**2176-4-1**] 08:00 PM
   - Per BMT, reduce steroids to 20 PO prednisone [**Hospital1 7**] with plan to taper
   off completely.  They suggest giving new abx a few days to see if
   improvement before readdressing goals of care
   - EKG with new TWI in II, R, V1-V3, CE checked but unremarkable, ASA
   would be difficult anyway given his thrombocytopenia
   - Per BMT, can give neupogen for one more day and then d/c if ANC
   remains > 1000
   - transfused a unit of plts (plt 6)
   Allergies:
   Ifosfamide
   Mental status c
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2176-3-30**] 10:00 AM
   Gentamicin - [**2176-3-30**] 08:00 PM
   Daptomycin - [**2176-3-31**] 12:08 PM
   Meropenem - [**2176-4-1**] 05:26 PM
   Vancomycin - [**2176-4-1**] 08:11 PM
   Voriconazole - [**2176-4-1**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-4-2**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.1
C (100.5
   HR: 116 (94 - 136) bpm
   BP: 104/60(74) {96/56(70) - 163/78(104)} mmHg
   RR: 24 (20 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 73.6 kg (admission): 73.3 kg
   Height: 69 Inch
           Total In:
                                                                  2,327 mL
                                                                    421 mL
   PO:
           TF:
                                                                    517 mL
   IVF:
                                                                  1,770 mL
                                                                    196 mL
   Blood products:
   225 mL
   Total out:
                                                                  2,620 mL
                                                                    890 mL
   Urine:
                                                                  2,600 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
                                                                     20 mL
   Balance:
                                                                   -293 mL
                                                                   -469 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 14 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: 7.41/37/81.[**Numeric Identifier 218**]/22/0
   Ve: 11.6 L/min
   PaO2 / FiO2: 203
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   6 K/uL
   8.6 g/dL
   340 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.9 mEq/L
   32 mg/dL
   107 mEq/L
   139 mEq/L
   25.8 %
   1.5 K/uL
        [image002.jpg]
                             [**2176-3-31**]  06:48 AM
                             [**2176-3-31**]  02:38 PM
                             [**2176-3-31**]  06:40 PM
                             [**2176-3-31**]  11:02 PM
                             [**2176-4-1**]  04:09 AM
                             [**2176-4-1**]  04:22 AM
                             [**2176-4-1**]  09:25 AM
                             [**2176-4-1**]  03:00 PM
                             [**2176-4-2**]  03:39 AM
                             [**2176-4-2**]  04:14 AM
   WBC
   1.6
   1.8
   1.6
   1.5
   Hct
   29.2
   26.5
   27.7
   25.8
   Plt
   46
   11
   42
   21
   16
   6
   Cr
   0.7
   0.7
   0.7
   0.7
   TropT
   0.02
   TCO2
   20
   25
   23
   24
   Glucose
   [**Telephone/Fax (3) 14282**]40
   Other labs: PT / PTT / INR:12.9/31.1/1.1, CK / CKMB /
   Troponin-T:12/2/0.02, ALT / AST:[**11-23**], Alk Phos / T Bili:333/1.1,
   Amylase / Lipase:24/15, Differential-Neuts:84.0 %, Band:0.0 %,
   Lymph:14.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:485 mg/dL, Lactic
   Acid:2.6 mmol/L, Albumin:2.4 g/dL, LDH:212 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 60 yo male s/p auto BMT [**12-12**] with relapsed DLBCL d+25
   of nitrogen mustard therapy with persistent neutropenic and asplenic
   fevers (s/p splenectomy [**2176-2-20**]) and progressive respiratory failure.
   #. Respiratory failure.
   Did poorly on SBT yesterday, using significant accessory muscles to
   breath, look very uncomfortable off sedation on exam.
   RT attempted to wean to psv5/peep5 but became tachypneic with rr >38,hr
   >130 and c/o sob this AM.
   Significant ground glass opacities on CT scan.  Chest x-ray worsened
   yesterday, focal infiltrates, no signs of fluid overload.  [**Month (only) 51**] be
   worsening of lymphoma, with possible contribution of infectious process
   and some element of pulmonary edema.    If worsening lymphoma is the
   primary cause of his respiratory failure, he may not be able to be
   extubated.  DCed levo and zosyn yesterday, per ID.
   - daily CXR
   - continue vancomycin day #1 = [**2176-3-31**], meropenem day#1= [**2176-3-30**] ,
   voriconazole #[**2176-3-16**]
   - increase pressure support, sedation to comfort
   - continue steroids per BMT recs in order to decrease inflammatory
   process; on methylprednisolone 40mg IV Q12h
   - Goals of care discussion by BMT
   # Abdominal Pain/Abdominal Fluid Collections.
   Pain improved.  Fluid collection on CT likely not infectious.  [**Month (only) 51**] be
   drainable but procedure in this patient would be risky for infection
   given neutropenia and steroids.  Last culture from drain was VRE
   susceptible to daptomycin.  Lactate within normal limits.
   - f/u surgery recs
   - d/ced daptomycin per ID recs
   - continue broad spectrum antibiotics.
   - goals of care discussion with primary oncologist Monday
   # Pancytopenia:
   Secondary likely to lymphoma and possibly last chemotherapy round three
   weeks ago. Improving, though still requiring frequent transfusions of
   platelets and PRBCs.
   - Trend [**Hospital1 7**] CBC.
   - Transfuse for HCT>21, PLTs > 10 per BMT recs.
   #.  DLBCL
   s/p nitrogen mustard with neutropenia.  Patient with refractory DLBCL.
   Now day +24 of nitrogen and counts are slowly recovering.  Gran Ct
   1550.  Lymphoma present in bone marrow and elsewhere, likely has spread
   to lungs making extubation difficult.
   - transfuse to Hct of 25, Plts > 10
   - continue neupogen
   - BMT following
   - daily CBC with diff/ anc
   #.  Fevers
   History of ongoing neutropenic and asplenic fevers.   Low grade fevers
   persist.  VRE growing from JP drain at splenectomy site (though not
   clear if this is colonization of the drain).  GPCs growing from last
   sputum cx.
   - empiric broad spectrum antibiotics given immunocompromised state,
   consider peeling back once ANC recovers >1000
   - ID following
   - f/u cultures
   #. Glycemic control.
   - regular ISS given steroid use
   #. Goals of care
   - given apparent progression of lymphoma, difficulty weaning from vent,
   will need to readdress goals of care.
 TACHYCARDIA, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 PNEUMONIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ELECTROLYTE & FLUID DISORDER, OTHER
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2176-3-23**] 02:28 PM
   Arterial Line - [**2176-3-23**] 06:24 PM
   Prophylaxis:
   DVT: Pboot
   Stress ulcer: IV PPI [**Hospital1 7**]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: